US08110571B2
1 g of 2-amino-1,3-benzothiazol-6-ol is introduced into 15 cm3 of pyridine in a three-necked flask. 1.02 cm3 of methyl chloroformate are added dropwise, while taking care not to exceed a temperature of 25° C. After stirring for five hours, 0.5 cm3 of methyl chloroformate is added. The reaction medium is stirred at a temperature in the region of 20° C. overnight. 30 cm3 of water are added and the precipitate is then filtered off by suction, washed with three times 5 cm3 of water and then dried over phosphorus pentoxide. 956 mg of methyl 2-imino-6-[(methoxycarbonyl)oxy]-1,3-benzothiazole-3(2H)-carboxylate are obtained in the form of a white solid, the characteristics of which are as follows:

reactant | 2-amino-1,3-benzothiazol-6-ol | 1 g | NC=1SC2=C(N1)C=CC(=C2)O | C7H6N2OS
reactant | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 1.02 cm3 | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 0.5 cm3 | ClC(=O)OC | C2H3ClO2
solvent | water | 30 cm3 | O | H2O
product | methyl 2-imino-6-[(methoxycarbonyl)oxy]-1,3-benzothiazole-3(2H)-carboxylate | 956 mg | N=C1SC2=C(N1C(=O)OC)C=CC(=C2)OC(=O)OC | C11H10N2O5S
